US08420563B2
Synthesis of 5-chloro-3-cyclohexyl salicylaldehyde (3)
To 100.4 mmol of 4-chloro-2-cyclohexyl phenol in 40 ml of tetrahydrofuran was added dropwise a 3-molar methylmagnesium bromide solution (36.8 ml; 110.4 mmol) in diethyl ether. After two hours of stirring at room temperature, gas evolution ceased. About 90% of the solvent were removed in vacuo and toluene (250 ml), triethylamine (20 ml), and paraformaldehyde (7.53 g; 251 mmol) were added. The mixture was heated to 88° C. and held at this temperature for two hours. After cooling down to room temperature, the yellow solution was introduced into cold hydrochloric acid (1M, 250 ml). The organic phase was separated and dried over sodium sulphate. After removal of the solvent in vacuo, 5-chloro-3-cyclohexyl salicylaldehyde was recrystallized from ethanol at −20° C. Yield: 59%.

reactant | 4-chloro-2-cyclohexyl phenol | 100.4 mmol | ClC1=CC(=C(C=C1)O)C1CCCCC1 | C12H15ClO
reactant | methylmagnesium bromide | 110.4 mmol, 3-molar, 36.8 ml | C[Mg]Br
reactant | paraformaldehyde | 251 mmol, 7.53 g | C=O | CH2O
reactant | hydrochloric acid | 1M, 250 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-3-cyclohexyl salicylaldehyde | Yield: 59% | ClC1=CC(=C(C(C=O)=C1)O)C1CCCCC1 | C13H15ClO2
